US08975254B2
a) (R)-5-acetyl-N-(1-(3-(4-cyano-3,5-difluorophenyl)-1H-pyrazol-1-yl)-propan-2-yl)isoxazole-3-carboxamide
The title compound was prepared from (R)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2,6-difluorobenzonitrile (0.214 g, 0.81 mmol) and 5-acetylisoxazole-3-carboxylic acid (0.127 g, 0.81 mmol) using the method of Example 34(d). Yield 0.166 g. 1H NMR (400 MHz; MeOD): δ 1.28 (d, 3H), 2.59 (s, 3H), 4.37 (m, 2H), 4.60 (m, 1H), 6.80 (d, 1H), 7.27 (s, 1H), 7.64 (m, 2H), 7.72 (d, 1H).

reactant | (R)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2,6-difluorobenzonitrile | 0.81 mmol, 0.214 g | N[C@@H](CN1N=C(C=C1)C1=CC(=C(C#N)C(=C1)F)F)C | C13H12F2N4
reactant | 5-acetylisoxazole-3-carboxylic acid | 0.81 mmol, 0.127 g | C(C)(=O)C1=CC(=NO1)C(=O)O | C6H5NO4
product | (R)-5-acetyl-N-(1-(3-(4-cyano-3,5-difluorophenyl)-1H-pyrazol-1-yl)-propan-2-yl)isoxazole-3-carboxamide | C(C)(=O)C1=CC(=NO1)C(=O)N[C@@H](CN1N=C(C=C1)C1=CC(=C(C(=C1)F)C#N)F)C | C19H15F2N5O3
